US06344471B1
b) 4-Ethyl-3-propyl-2-(chloro-carbonyl)-5(2H)-isoxazolone
At 0° C., 15 g (96.65 mmol) of 4-ethyl-3-propyl-5(2H)-isoxazolone in 150 ml of dichloromethane are admixed with 27.81 g (144.98 mmol) of diphosgene, and the mixture is then stirred at 0° C. for 6 h. To remove excess phosgene, argon was passed through the reaction mixture at RT for 1 h, the exhaust gas being neutralized by sodium hydroxide. The solution was concentrated and the product was distilled under reduced pressure. B.p.mbar 125-30° C.

reactant | 4-ethyl-3-propyl-5(2H)-isoxazolone | 96.65 mmol, 15 g | C(C)C1=C(NOC1=O)CCC | C8H13NO2
reactant | diphosgene | 144.98 mmol, 27.81 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-Ethyl-3-propyl-2-(chloro-carbonyl)-5(2H)-isoxazolone | C(C)C1=C(N(OC1=O)C(=O)Cl)CCC | C9H12ClNO3
